US04051248
1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one
1-Phenyl-8-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (5.0 g) is dissolved in 60 ml of dry tetrahydrofuran and added, dropwise, to a flask charged with 2.1 equivalents of a 1 molar tetrahydrofuran solution of lithium tri-sec-butylborohydride, previously cooled to -78° C, all under an argon atmosphere. The resulting solution is stirred for 16 hours at room temperature. The reaction mixture is treated at 0° C with 15 ml of 3 molar sodium hydroxide followed by the addition of 15 ml of 30% hydrogen peroxide. The aqueous phase is saturated with potassium carbonate and the organic layer is separated and concentrated. The residue is dissolved in methylene chloride, washed with water, dried and concentrated producing the crude product. Recrystallization of this material from methylene chloride/hexane yields 4.2 g of isomerically pure title compound, melting point 204°-205° C.

reactant | 1-Phenyl-8-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 5.0 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=CC=C1CC2)=O)=O | C24H27N3O2
reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | sodium hydroxide | 3 molar, 15 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 15 ml | OO | H2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 molar | O1CCCC1 | C4H8O
product | 1-Phenyl-8-[(cis-1,2,3,4-tetrahydro-1-hydroxy-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C[C@@H]2[C@@H](C1=CC=CC=C1CC2)O)=O | C24H29N3O2
